US06583135B2
Preparation of 2-[3-(2-Azidoethyl)-4-chloro-1H-indol-2-yl]-2-methylpropanedioic Acid Dimethyl Ester
To a solution of 2-[3-(2-azidoethyl)-4-chloro-1H-indol-2-yl]-propanedioic acid dimethyl ester (19.3 mmol) in dry MeOH (0.1 L) at 0° C. under argon was added a 25% NaOMe in MeOH (4.37 mL, 19.11 mmol). The reaction mixture was stirred for 30 min, and MeI (1.82 mL, 29.2 mmol) was added. The mixture was stirred briefly at rt, and then was refluxed overnight. The reaction mixture was concentrated. The residue was taken up with cold H2O. This mixture was extracted with Et2O. The combined Et2O extracts were washed with H2O, dried, filtered, and concentrated to an oil. This oil was purified by silica chromatography to give the title compound: TLC Rf=0.50 (CH2Cl2), MS (ESI+) 387.0; 1H NMR (300 MHz CDCl3) δ 9.95 (1H), 7.27 (1H), 7.07 (2H), 3.83 (6H), 3.48 (2H), 3.15 (2H), 1.94 (3H).

reactant | 2-[3-(2-azidoethyl)-4-chloro-1H-indol-2-yl]-propanedioic acid dimethyl ester | 19.3 mmol | COC(C(C(=O)OC)C=1NC2=CC=CC(=C2C1CCN=[N+]=[N-])Cl)=O | C15H15ClN4O4
reactant | NaOMe | C[O-].[Na+]
reactant | MeI | 29.2 mmol, 1.82 mL | CI | CH3I
solvent | MeOH | 0.1 L | CO | CH4O
solvent | MeOH | 19.11 mmol, 4.37 mL | CO | CH4O
product | 2-[3-(2-Azidoethyl)-4-chloro-1H-indol-2-yl]-2-methylpropanedioic Acid Dimethyl Ester | COC(C(C(=O)OC)(C)C=1NC2=CC=CC(=C2C1CCN=[N+]=[N-])Cl)=O | C16H17ClN4O4
